### ISSUE TITLE
Pure Math Expansion #2: Graph Substructure Safety (+1-3 molecules)

### ISSUE THREAD

**Issue by kavanaghpatrick** [kavanaghpatrick/aristotle_biochemistry#32]
# Pure Math Expansion: Graph Substructure Safety

## 🎯 Objective

Implement graph substructure safety proofs: if molecule A is proven safe and molecule B is a subgraph of A, then B is also safe. **100% pure logic, no measurements needed.**

## 📊 Expected Impact

- **Coverage Gain**: +1-3 molecules
- **New Coverage**: Complements steric clashes → pushes to 60-70%
- **Soundness**: 100% (pure logical implication)
- **Timeline**: 2-3 days

### Pure Graph Theory

```lean
/-! ## Graph Substructure Definition -/

structure MolecularGraph where
  vertices : Finset ℕ  -- Atoms
  edges : Finset (ℕ × ℕ)  -- Bonds
  vertex_labels : ℕ → Element  -- Atom types

/-- Subgraph isomorphism: g1 is subgraph of g2 -/
def is_subgraph (g1 g2 : MolecularGraph) : Prop :=
  ∃ (f : g1.vertices → g2.vertices),
    Function.Injective f ∧
    (∀ v ∈ g1.vertices, g1.vertex_labels v = g2.vertex_labels (f v)) ∧
    (∀ e ∈ g1.edges, (f e.1, f e.2) ∈ g2.edges)

/-! ## Main Theorem -/

/--
If molecule A cannot bind and molecule B is a substructure of A,
then B also cannot bind.

Intuition: If the larger molecule cannot fit/reach, the smaller fragment
cannot either (it has even less spatial extent).
-/
theorem subgraph_safety
    {mol_small mol_large : Molecule}
    (h_subgraph : is_subgraph mol_small.graph mol_large.graph)
    (h_large_safe : CannotBind mol_large.bounding_radius) :
    CannotBind mol_small.bounding_radius := by
  unfold CannotBind at *
  intro h_small_binds

  -- Key insight: subgraph has smaller or equal bounding radius
  have h_radius : mol_small.bounding_radius ≤ mol_large.bounding_radius := by
    exact subgraph_smaller_radius h_subgraph

  -- If smaller molecule can bind, larger molecule can too (contradiction)
  cases h_small_binds with
  | intro h_fits h_reaches =>
    have h_large_fits : FitsInCavity mol_large.bounding_radius := by
      exact fits_if_larger_fits h_radius h_fits
    have h_large_reaches : ReachesPhe656 mol_large.bounding_radius := by
      exact reaches_if_larger_reaches h_radius h_reaches
    have h_large_binds : FitsInCavity mol_large.bounding_radius ∧
                         ReachesPhe656 mol_large.bounding_radius :=
      ⟨h_large_fits, h_large_reaches⟩
    exact h_large_safe h_large_binds
```

### Phase 1: Graph Extraction (Day 1)

**File**: `validation_suite/graph_utils.py`

```python
from rdkit import Chem
from rdkit.Chem import AllChem
import networkx as nx

def smiles_to_graph(smiles):
    """
    Convert SMILES to molecular graph.

    Returns: networkx.Graph with:
    - Nodes labeled by element (C, N, O, etc.)
    - Edges representing bonds
    """
    mol = Chem.MolFromSmiles(smiles)
    if mol is None:
        return None

    G = nx.Graph()

    # Add atoms as nodes
    for atom in mol.GetAtoms():
        G.add_node(
            atom.GetIdx(),
            element=atom.GetSymbol(),
            aromatic=atom.GetIsAromatic()
        )

    # Add bonds as edges
    for bond in mol.GetBonds():
        G.add_edge(
            bond.GetBeginAtomIdx(),
            bond.GetEndAtomIdx(),
            bond_type=str(bond.GetBondType())
        )

    return G

def is_subgraph_isomorphic(g_small, g_large):
    """
    Check if g_small is subgraph of g_large.

    Uses VF2 algorithm (polynomial time for bounded graphs).
    """
    from networkx.algorithms import isomorphism

    # Node matcher: elements must match
    nm = isomorphism.categorical_node_match('element', 'C')

    # Check subgraph isomorphism
    GM = isomorphism.GraphMatcher(g_large, g_small, node_match=nm)

    return GM.subgraph_is_isomorphic()

# Example usage
metformin_graph = smiles_to_graph("CN(C)C(=N)NC(=N)N")  # Proven safe
unknown_graph = smiles_to_graph("SOME_SMILES")

if is_subgraph_isomorphic(unknown_graph, metformin_graph):
    print("Unknown molecule is substructure of Metformin → PROVEN SAFE")
```

### Phase 2: Systematic Search (Day 1-2)

**File**: `validation_suite/subgraph_checker.py`

```python
import json

# Load proven-safe molecules
with open('validation_summary_gap_closure.json') as f:
    data = json.load(f)

proven_safe = [
    mol for mol in data['all_results']
    if mol.get('proof_method') in ['reachability', 'volume_exclusion']
]

unprovable = [
    mol for mol in data['all_results']
    if mol.get('proof_method') is None and not mol.get('is_binder')
]

# Build graphs for proven-safe molecules
proven_graphs = {}
for mol in proven_safe:
    name = mol['name']
    smiles = get_smiles(name)  # From molecule database
    graph = smiles_to_graph(smiles)
    proven_graphs[name] = {
        'graph': graph,
        'smiles': smiles,
        'proof_method': mol['proof_method']
    }

# Check each unprovable molecule
newly_proven = []

for mol in unprovable:
    name = mol['name']
    smiles = get_smiles(name)
    graph = smiles_to_graph(smiles)

    # Check against all proven-safe molecules
    for proven_name, proven_data in proven_graphs.items():
        if is_subgraph_isomorphic(graph, proven_data['graph']):
            newly_proven.append({
                'molecule': name,
                'subgraph_of': proven_name,
                'parent_proof': proven_data['proof_method'],
                'decision': 'PROVEN_SAFE',
                'proof_method': 'graph_substructure'
            })
            print(f"✅ {name} is substructure of {proven_name} → PROVEN SAFE")
            break

print(f"\nFound {len(newly_proven)} new proofs via subgraph isomorphism")

# Save results
with open('subgraph_proofs.json', 'w') as f:
    json.dump(newly_proven, f, indent=2)
```

### Phase 3: Lean Formalization (Day 2)

**File**: `BiochemFormal/Geometry/GraphSubstructure.lean`

```lean
import BiochemFormal.Geometry.Core
import BiochemFormal.Safety.Core

/-!
# Graph Substructure Safety

Proves that substructures of safe molecules are also safe.

This is pure logic - no measurements or physical constants needed.

Foundation:
- If molecule A cannot bind
- And molecule B is a subgraph of A (strictly smaller/equal structure)
- Then B also cannot bind (it's even more constrained)

Key insight: Subgraph has ≤ bounding radius of parent graph.
-/

namespace BiochemFormal

/-! ## Molecular Graph -/

structure MolecularGraph where
  vertices : Finset ℕ
  edges : Finset (ℕ × ℕ)
  vertex_labels : ℕ → Element

/-! ## Subgraph Predicate -/

def is_subgraph (g1 g2 : MolecularGraph) : Prop :=
  ∃ (f : g1.vertices → g2.vertices),
    Function.Injective f ∧
    (∀ v ∈ g1.vertices, g1.vertex_labels v = g2.vertex_labels (f v)) ∧
    (∀ e ∈ g1.edges, (f e.1, f e.2) ∈ g2.edges)

/-! ## Key Lemma -/

/--
Subgraphs have smaller or equal bounding radius.

Proof: A subgraph is a subset of atoms, so the maximum pairwise
distance cannot exceed that of the full graph.
-/
lemma subgraph_smaller_radius
    {mol_small mol_large : Molecule}
    (h : is_subgraph mol_small.graph mol_large.graph) :
    mol_small.bounding_radius ≤ mol_large.bounding_radius := by
  unfold bounding_radius
  -- Bounding radius = max distance over all atom pairs
  -- Subgraph has subset of atom pairs
  -- Therefore max over subset ≤ max over full set
  sorry  -- Aristotle: please prove from max properties

/-! ## Main Theorem -/

theorem subgraph_safety
    {mol_small mol_large : Molecule}
    (h_subgraph : is_subgraph mol_small.graph mol_large.graph)
    (h_large_safe : CannotBind mol_large.bounding_radius) :
    CannotBind mol_small.bounding_radius := by
  unfold CannotBind at *
  intro h_small_binds

  have h_radius : mol_small.bounding_radius ≤ mol_large.bounding_radius :=
    subgraph_smaller_radius h_subgraph

  cases h_small_binds with
  | intro h_fits h_reaches =>
    -- If small molecule fits and reaches, large molecule can too
    have h_large_fits : FitsInCavity mol_large.bounding_radius := by
      exact volume_monotone h_radius h_fits
    have h_large_reaches : ReachesPhe656 mol_large.bounding_radius := by
      exact distance_monotone h_radius h_reaches

    have h_large_binds := ⟨h_large_fits, h_large_reaches⟩
    exact h_large_safe h_large_binds

end BiochemFormal
```

**File**: `BiochemFormal/Theorems/SubgraphProofs.lean`

```lean
import BiochemFormal.Geometry.GraphSubstructure

/-!
# Subgraph Safety Proofs - FULL CONTEXT FOR ARISTOTLE

## Context

This module contains proofs for molecules that are substructures of
already-proven-safe molecules.

Example: If Metformin (proven safe via reachability) is safe,
and molecule X is a subgraph of Metformin, then X is also safe.

This is pure logic - we're using transitivity of safety.

## Strategy for Aristotle

Each proof follows this pattern:
1. Define the molecule's graph structure
2. Prove it's a subgraph of a known-safe molecule (graph isomorphism)
3. Apply subgraph_safety theorem

The graph isomorphism proofs are generated from Python VF2 algorithm,
which provides the node mapping f : vertices_small → vertices_large.

Aristotle: These proofs are straightforward applications of subgraph_safety.
The hard work is verifying the subgraph relationship, which is done by
exhibiting the explicit node mapping.
-/

namespace BiochemFormal

/-! ## Example: Hypothetical molecule X -/

-- Suppose we found that molecule X is subgraph of Metformin

def molecule_x : Molecule := {
  name := "MoleculeX"
  smiles := "CN(C)C(=N)N"  -- Fragment of Metformin
  bounding_radius := 3.5  -- Smaller than Metformin's 4.19 Å
  graph := {
    vertices := {0, 1, 2, 3, 4, 5, 6}  -- 7 atoms vs Metformin's 11
    edges := {(0,1), (1,2), (2,3), (3,4), (4,5), (5,6)}
    vertex_labels := λ i => match i with
      | 0 => Element.C
      | 1 => Element.N
      | 2 => Element.C
      | 3 => Element.N
      | 4 => Element.C
      | 5 => Element.N
      | 6 => Element.N
      | _ => Element.C
  }
}

-- Prove it's subgraph of Metformin
theorem molecule_x_subgraph_of_metformin :
    is_subgraph molecule_x.graph metformin.graph := by
  unfold is_subgraph
  -- Exhibit the node mapping (from Python VF2 algorithm)
  use λ v => match v with
    | 0 => 0  -- Maps to Metformin's C atom
    | 1 => 1  -- Maps to Metformin's N atom
    | 2 => 2  -- etc.
    | 3 => 4
    | 4 => 5
    | 5 => 8
    | 6 => 9
    | _ => 0
  constructor
  · -- Prove injectivity
    intro a b h_eq
    cases a <;> cases b <;> simp at h_eq <;> try rfl <;> contradiction
  constructor
  · -- Prove labels match
    intro v h_v
    cases v <;> rfl
  · -- Prove edges preserved
    intro e h_e
    cases e
    simp only
    -- Verify each edge is preserved
    norm_num

-- Main safety proof
theorem molecule_x_safe : CannotBind molecule_x.bounding_radius := by
  have h_subgraph := molecule_x_subgraph_of_metformin
  have h_metformin_safe := metformin_safe  -- From existing proofs
  exact subgraph_safety h_subgraph h_metformin_safe

/-! ## Auto-generated proofs -/

-- Python script will generate similar theorems for all subgraph matches

end BiochemFormal
```

### Phase 4: Integration & Testing (Day 3)

```bash
# Run subgraph checker
cd validation_suite
python3 subgraph_checker.py

# Expected output:
# Checking 21 unprovable molecules against 16 proven-safe molecules...
# ✅ MoleculeX is substructure of Metformin → PROVEN SAFE
# ✅ MoleculeY is substructure of Caffeine → PROVEN SAFE
#
# Found 2 new proofs via subgraph isomorphism

# Generate Lean proofs
python3 generate_subgraph_lean_proofs.py

# Aristotle verification
aristotle --prove BiochemFormal/Theorems/SubgraphProofs.lean
```

## 📋 Checklist

- [ ] Phase 1: Implement graph extraction from SMILES (RDKit → NetworkX)
- [ ] Phase 1: Implement subgraph isomorphism checker (VF2 algorithm)
- [ ] Phase 2: Run systematic search (21 unprovable × 16 proven-safe = 336 checks)
- [ ] Phase 2: Identify all subgraph relationships
- [ ] Phase 3: Formalize subgraph safety theorem in Lean
- [ ] Phase 3: Generate per-molecule proofs with explicit node mappings
- [ ] Phase 4: Aristotle verification
- [ ] Testing: Verify coverage increase
- [ ] Testing: Confirm 0% false negatives maintained

## 🎯 Success Criteria

- **Coverage Gain**: +1-3 molecules (even 1-2 is valuable)
- **Combined Coverage** (with steric clashes): ≥60%
- **False Negatives**: 0/11 (must maintain)
- **Soundness**: Pure logic, no new axioms needed

### VF2 Algorithm Complexity

- **Time**: O(N! × M) worst case, but polynomial for bounded degree graphs
- **Our case**: Molecules have degree ≤ 4 (carbon max 4 bonds) → efficient
- **Runtime**: <1 second per molecule pair on modern hardware

### Why This is 100% Sound

1. **Graph theory is pure mathematics** (no physical measurements)
2. **Subgraph isomorphism is decidable** (VF2 algorithm is proven correct)
3. **Logical implication**: safe(A) ∧ subgraph(B,A) → safe(B)
4. **No empirical thresholds or statistical assumptions**

### Potential Candidates

Likely to find subgraph relationships:
- **Fragment molecules**: If we have proven-safe molecule with many atoms, smaller fragments may be in unprovable set
- **Common scaffolds**: Benzene rings, amino groups, etc.
- **Metabolites**: If parent drug is safe, metabolites (smaller fragments) also safe

## 💬 Complementary to Steric Clashes

This approach is **orthogonal** to steric clash detection:
- **Steric clashes**: Geometric reasoning (3D coordinates)
- **Subgraph**: Topological reasoning (connectivity only)

They will likely prove **different molecules**, maximizing coverage gain.

## 🔬 References

- **VF2 Algorithm**: Cordella et al. (2004). "A (sub)graph isomorphism algorithm for matching large graphs". IEEE TPAMI.
- **NetworkX**: Python library with proven subgraph isomorphism implementation
- **Graph theory**: Pure mathematics, foundational to computer science

**Comment by kavanaghpatrick** [comment]
## ✅ Grok Review Complete

**Soundness**: 100% (purely logical!)
**Feasibility**: High
**Priority**: Implement SECOND or in parallel
**Expected Coverage**: +1-3 molecules (complementary to steric clashes)
**Aristotle Integration**: Likely automatable

**Key Recommendations**:
- Validate VF2 algorithm completeness
- Consider edge cases where graph structure alone insufficient
- Implement after steric clashes for complementary coverage

**Verdict**: ✅ GREEN LIGHT - Implement after #31

See full review: /tmp/GROK_ISSUE_REVIEW.md

**Comment by kavanaghpatrick** [comment]
## 🎯 PRIORITY ELEVATED: Graph Substructure Now PRIMARY Approach

**Context**: Issue #31 (steric clashes) found ZERO clashes in unprovable molecules.
Molecules fit inside cavity without touching walls.

**This Makes Graph Substructure CRITICAL**:
- 100% mathematically sound (pure logic)
- Doesn't require cavity measurements
- Can find substructures of proven-safe molecules
- Expected: +1-3 molecules (but now our ONLY pure math expansion option!)

**Next Steps**:
1. Implement graph extraction (SMILES → NetworkX)
2. Check all 21 unprovable vs 16 proven-safe for subgraph matches
3. Generate Lean proofs with explicit mappings
4. This is now our PATH TO 60% COVERAGE!

**Starting implementation immediately...**
